US07560544B2
Step 2) Preparation of 5-Amino-3-β-D-xylofuranosyl-3H-thiazolo-[4,5-d]pyrimidin-2-thione (41)
5-Amino-2,3-dihydro-2-thioxo-3-(2,3,5-tri-O-acetyl-β-D-xylofuranosyl)thiazolo[4,5-d]pyrimidin-7-thione (65 mg, 0.14 mmol) is dissolved in MeOH (5 mL). To this was added K2CO3 (19 mg, 0.137 mmol), and the resultant mixture was stirred for 3 h whereupon it was quenched with HOAc (140 μL, 2.4 mmol), and the solvent was removed by rotary evaporation. The crude product is submitted to HPLC purification (MeCN—H2O) yielding 30 mg (62%) of white solid: 1H NMR (400 MHz, d6-DMSO) δ 8.50 (s, 1H), 6.90 (br s, 2H), 6.45 (d, J=5.2, 1H), 5.67 (d, J=8.0, 1H), 5.49 (d, J=8.4, 1H), 5.03 (m, 1H), 4.49 (t, J=5.2, 1H), 4.02 (m, 2H), 3.72 (m, 2H). Analysis calc'd for C10H12N4O4S2.0.4H2O: C, 37.12; H, 3.99; N, 17.32; S, 19.82. Found: C, 37.53; H, 3.80; N, 17.04; S, 19.42.

reactant | 5-Amino-2,3-dihydro-2-thioxo-3-(2,3,5-tri-O-acetyl-β-D-xylofuranosyl)thiazolo[4,5-d]pyrimidin-7-thione | 0.14 mmol, 65 mg | NC=1NC(C2=C(N1)N(C(S2)=S)[C@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](O2)COC(C)=O)=S | C16H18N4O7S3
reactant | K2CO3 | 0.137 mmol, 19 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HOAc | 2.4 mmol, 140 μL | CC(=O)O | C2H4O2
solvent | MeOH | 5 mL | CO | CH4O
product | 5-Amino-3-β-D-xylofuranosyl-3H-thiazolo-[4,5-d]pyrimidin-2-thione | 30 mg, 62% | NC=1N=CC2=C(N1)N(C(S2)=S)[C@H]2[C@H](O)[C@@H](O)[C@H](O2)CO | C10H12N4O4S2
